US06919412B1
A solution of 4.4 g of 8-bromo-2-methylquinoline (20 mmol) in 50 ml of THF was cooled to −78° C., and 8.8 ml of n-BuLi (2.5 M in hexane, 22 mmol) was added dropwise while stirring. After ten minutes of stirring, 3.5 g of 2,3,4,5-tetramethylcyclopentenone (25 mmol) was added dropwise; the solution was heated to room temperature and then heated in reflux for one hour. The solution was cooled down; ice and hydrochloric acid to approximately pH 1 were added; and after neutralization with ammonia solution, the phases were separated and the aqueous phase was extracted with pentane. The combined organic extracts were dried, the pentane was removed in a vacuum, and the remaining brown oil was distilled in a high vacuum (boiling point: 115° C. at 0.01 mbar). A 60% yield (3.2 g) of 1-(2-methyl-8-quinolyl)-2,3,4,5-tetramethylcyclopentadiene in the form of yellow, viscous oil was obtained.

reactant | 8-bromo-2-methylquinoline | 20 mmol, 4.4 g | BrC=1C=CC=C2C=CC(=NC12)C | C10H8BrN
reactant | n-BuLi | 22 mmol, 2.5 M, 8.8 ml | [Li]CCCC
reactant | 2,3,4,5-tetramethylcyclopentenone | 25 mmol, 3.5 g | CC=1C(C(C(C1C)C)C)=O | C9H14O
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-(2-methyl-8-quinolyl)-2,3,4,5-tetramethylcyclopentadiene | 3.2 g, 60% yield | CC1=NC2=C(C=CC=C2C=C1)C1=C(C(=C(C1C)C)C)C | C19H21N
